US04052511
a. 4-Methoxycarbonyl-2-methylbutanoic acid
2-Methylglutaric acid (14.6 g.) and acetyl chloride (26 ml.) are heated in the steam bath for 1 hour. The mixture is concentrated to dryness in vacuo and the residue evaporated twice from toluene. The residue is dissolved in methanol (4.7 ml.), heated on the steam bath for 1 hour and concentrated to dryness. The residue is dissolved in a mixture of ether (17 ml.), dicyclohexylamine (16.7 ml.) and hexane (83 ml.). The crystalline salt is filtered, stirred and treated with boiling ethyl acetate (75 ml.). The insoluble material is filtered off, and the filtrate is concentrated to one-third volume and chilled. The crystals are filtered and dried to yield 11.3 g. of 4-methoxycarbonyl-2-methyl butanoic acid dicyclohexylamine salt, m.p. 97°-99°. The salt is converted to the free acid by treatment with Dowex 50.

reactant | 2-Methylglutaric acid | 14.6 g | CC(C(=O)O)CCC(=O)O | C6H10O4
reactant | acetyl chloride | 26 ml | C(C)(=O)Cl | C2H3ClO
reactant | 4-methoxycarbonyl-2-methyl butanoic acid dicyclohexylamine salt | C1(CCCCC1)NC1CCCCC1.COC(=O)CCC(C(=O)O)C
product | 4-Methoxycarbonyl-2-methylbutanoic acid | COC(=O)CCC(C(=O)O)C | C7H12O4
